US06919331B2
N-Hydroxy-1-(3-methyl-butyl)-2-(2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1H-benzoimidazole-5-carboxamidine was prepared from 1-(3-Methyl-butyl)-2-(2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1H-benzoimidazole-5-carbonitrile as described for N-hydroxy-2-(3-isopropenyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxamidine.

reactant | 1-(3-Methyl-butyl)-2-(2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1H-benzoimidazole-5-carbonitrile | CC(CCN1C(=NC2=C1C=CC(=C2)C#N)CN2C(NC1=C2C=CC=C1)=O)C | C21H21N5O
reactant | N-hydroxy-2-(3-isopropenyl-2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxamidine | ONC(=N)C1=CC2=C(N(C(=N2)CN2C(N(C3=C2C=CC=C3)C(=C)C)=O)CCC(C)C)C=C1 | C24H28N6O2
product | N-Hydroxy-1-(3-methyl-butyl)-2-(2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-1H-benzoimidazole-5-carboxamidine | ONC(=N)C1=CC2=C(N(C(=N2)CN2C(NC3=C2C=CC=C3)=O)CCC(C)C)C=C1 | C21H24N6O2
